US05202409
In the same manner as in Synthetic example 1, 2-allyl-6-methylphenol and 3-mercapto-2-butanol were reacted to obtain 2-[3-(2-hydroxy-1-methylpropylthio)propyl]-6-methylphenol.

reactant | 2-allyl-6-methylphenol | C(C=C)C1=C(C(=CC=C1)C)O | C10H12O
reactant | 3-mercapto-2-butanol | SC(C(C)O)C | C4H10OS
product | 2-[3-(2-hydroxy-1-methylpropylthio)propyl]-6-methylphenol | OC(C(SCCCC1=C(C(=CC=C1)C)O)C)C | C14H22O2S
